US07238724B2
N-(tert-butoxycarbonyl)-L-leucyl-(5R)-5-ethynyl-L-prolinamide
To a cold (0° C.) solution of N-(tert-butoxycarbonyl)-L-leucyl-(5R)-5-ethynyl-L-proline (2.83 mmol) and N-methyl morpholine (0.39 mL, 3.50 mmol) in THF (15 mL) was added isobutyl chloroformate (0.42 mL, 3.25 mmol). The resulting cloudy white mixture was stirred at 0° C. for 30 minutes followed by the addition of a solution of ammonia (0.5 M in dioxane, 10.0 mL, 5.0 mmol). The solution was allowed to warm to room temperature and stirred for 16 hours. The reaction mixture was diluted by the addition of 1 M HCl (100 mL), and extracted with ethyl acetate (3×100 mL). The combined organic layers were dried (sodium sulfate), filtered, and concentrated to provide the titled compound.

reactant | N-(tert-butoxycarbonyl)-L-leucyl-(5R)-5-ethynyl-L-proline | 2.83 mmol | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)O)CC[C@@H]1C#C | C18H28N2O5
reactant | N-methyl morpholine | 3.50 mmol, 0.39 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 3.25 mmol, 0.42 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ammonia | 5.0 mmol, 0.5 M, 10.0 mL | N | H3N
reactant | HCl | 1 M, 100 mL | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-(tert-butoxycarbonyl)-L-leucyl-(5R)-5-ethynyl-L-prolinamide | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N)CC[C@@H]1C#C | C18H29N3O4
